US06878715B1
A solution of the (R)-1-(5-azidohexyl)-3,7-dimethylxanthine (620 mg) in ethanol (25 ml) was hydrogenated at 70 psi of hydrogen gas in presence of 10% palladium on carbon (150 mg) for 12 hours. After filtration to remove the catalyst, the filtrate was concentrated under reduced pressure to provide (R)-1-(5-aminohexyl)-3,7-dimethylxanthine.

reactant | (R)-1-(5-azidohexyl)-3,7-dimethylxanthine | 620 mg | N(=[N+]=[N-])[C@@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C13H19N7O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | (R)-1-(5-aminohexyl)-3,7-dimethylxanthine | N[C@@H](CCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C13H21N5O2
